US06291671B1
Synthesis of Boc-Gly-Phe-Leu-OH
H-Gly-Phe-Leu-OH (3.0 g) was added to 50% aqueous dioxane (48 ml) and ice-cooled. To this solution, 1N aqueous sodium hydroxide (9.45 ml) and a dioxane solution (24 ml) containing (Boc)2O (2.27 g) were added, and the mixture was stirred overnight. 1N hydrochloric acid (9.45 ml) was added to the reaction mixture and the solvent was evaporated. The resulting residue was purified by silica gel column chromatography (eluent: dichloromethane:methanol=5:1 solution) to obtain the title compound (2.5 g).

reactant | H-Gly-Phe-Leu-OH | 3.0 g | NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)O | C17H25N3O4
reactant | sodium hydroxide | 1N, 9.45 ml | [OH-].[Na+]
reactant | (Boc)2O | 2.27 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrochloric acid | 1N, 9.45 ml | Cl | ClH
solvent | dioxane | 24 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 48 ml | O1CCOCC1 | C4H8O2
product | Boc-Gly-Phe-Leu-OH | 2.5 g | N(CC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C22H33N3O6
